US07585886B2
Diisopropylethylamine and tert-butyldimethyl-chlorosilane were added in that order to a chloroform solution of (1-benzylpyrrolidin-3-yl)methanol and stirred at room temperature for 5Hours. Thereafter, its work-up and purification were carried out in the standard method to obtain 1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl]pyrrolidine. EP: 306.

reactant | Diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyldimethyl-chlorosilane | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | (1-benzylpyrrolidin-3-yl)methanol | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl]pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)CO[Si](C)(C)C(C)(C)C | C18H31NOSi
